US08293903B2
Step 8: Preparation of 1,5-anhydro-2,3-dideoxy-3-{[(1R,3S)-3-ethyl-3-({(1S,4S)-5-[4-(trifluoromethyl)pyridin-2-yl]-2,5-diazabicyclo[2.2.1]hept-2 yl}carbonyl)cyclopentyl]amino}-4-O-methyl-D-erythro-pentitol
To a solution of HCl salt of (1S,4S)-2,5-diaza-bicyclo[2.2.1]heptan-2-yl((1S,3R)-1-ethyl-3-((3S,4R)-3-methoxy-tetrahydro-2H-pyran-4-ylamino)cyclopentyl)methanone (118 mg, 0.33 mmol) in DMSO (2 ml) was added triethylamine (0.15 ml, 1.08 mmol) and the 2-chloro-4-(trifluoromethyl)pyridine (183 mg, 1.01 mmol). The reaction was heated to 120° C. for 15 hours. The reaction was cooled to room temperature, and added to stirring ice water. The mixture was extracted with ethyl acetate (3×). The combined organics were washed with brine, dried over MgSO4 concentrated under reduced pressure and purified with the Biotage (0-100% methanol/ethyl acetate, 15 column volumes) to give the product as a brown foam (40 mg 26%). LC/MS (M+H)=497.2739 exp, 497.2884 obs; 1H NMR (400 MHz, CDCl3) δ ppm 8.25-8.24 (1H), 6.75-6.74 (1H), 6.51-6.45 (1H), 5.13-4.76 (2H), 4.10-4.03 (1H), 3.95-3.90 (1H), 3.72-3.16 (11H), 2.82-2.67 (1H), 2.58-2.36 (1H), 2.06-1.36 (12H), 0.86-0.67 (3H)

reactant | HCl | Cl | ClH
reactant | (1S,4S)-2,5-diaza-bicyclo[2.2.1]heptan-2-yl((1S,3R)-1-ethyl-3-((3S,4R)-3-methoxy-tetrahydro-2H-pyran-4-ylamino)cyclopentyl)methanone | 0.33 mmol, 118 mg | [C@@H]12N(C[C@@H](NC1)C2)C(=O)[C@@]2(C[C@@H](CC2)N[C@H]2[C@@H](COCC2)OC)CC | C19H33N3O3
reactant | triethylamine | 1.08 mmol, 0.15 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-4-(trifluoromethyl)pyridine | 1.01 mmol, 183 mg | ClC1=NC=CC(=C1)C(F)(F)F | C6H3ClF3N
solvent | DMSO | 2 ml | CS(=O)C | C2H6OS
product | 1,5-anhydro-2,3-dideoxy-3-{[(1R,3S)-3-ethyl-3-({(1S,4S)-5-[4-(trifluoromethyl)pyridin-2-yl]-2,5-diazabicyclo[2.2.1]hept-2 yl}carbonyl)cyclopentyl]amino}-4-O-methyl-D-erythro-pentitol | 40 mg, 26% | C(C)[C@]1(C[C@@H](CC1)N[C@H]1CCOC[C@H]1OC)C(=O)N1[C@@H]2CN([C@H](C1)C2)C2=NC=CC(=C2)C(F)(F)F | C25H35F3N4O3
